US09029411B2
To a solution of methyl 4-cyano-3-iodo-5-morpholin-4-ylthiophene-2-carboxylate (1.5 g, 40.1 mmol) in THF (110 mL) was added a 1.0 M solution of sodium hydroxide in water (50 mL). The reaction mixture was allowed to stir at rt overnight and was then allowed to settle. The two layers were separated and the aqueous solution was washed with EtOAc and acidified with 1 N HCl. A precipitate formed and was filtered to give 4-cyano-3-iodo-5-morpholin-4-ylthiophene-2-carboxylic acid (1.2 g, 82%). LCMS: (FA) ES+ 365.0, ES− 363.1. 1H NMR (400 MHz, d6-DMSO) δ: 3.71-3.78 (m, 4H) and 3.51-3.58 (m, 4H).

reactant | methyl 4-cyano-3-iodo-5-morpholin-4-ylthiophene-2-carboxylate | 40.1 mmol, 1.5 g | C(#N)C=1C(=C(SC1N1CCOCC1)C(=O)OC)I | C11H11IN2O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 110 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | 4-cyano-3-iodo-5-morpholin-4-ylthiophene-2-carboxylic acid | 1.2 g, 82% | C(#N)C=1C(=C(SC1N1CCOCC1)C(=O)O)I | C10H9IN2O3S
